US06653471B2
To a solution of 5-bromo-4-oxo-4,5,6,7-tetrahydro-indole 1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester (1.66 mmol) in 15 mL 1,4-dioxane is added acetamidine hydrochloride (3.32 mmol). After stirring under refluxing for 16 hours the solvent is removed in vacuo. To the residue is added 14 mL CHCl3 and 2 mL MeOH and the mixture is stirred for 10 min. The solid is filtered off. The mother liquid is concentrated and is chromatographed using 10% MeOH in CH2Cl2 as mobile phase to yield 2-methyl-3,4,5,6-tetrahydro-imidazo[4,5-e]indole-8-carboxylic acid ethyl ester as a white solid (30%). 1H NMR (DMSO-d6) 1.30 (t, 3H), 2.28 (s, 3H), 2.70 (t, 2H), 2.79 (t, 2H), 4.22 (q, 2H), 7.20 (s, 1H), 10.58 (s, 1H), 11.43 (s, 1H).

reactant | 5-bromo-4-oxo-4,5,6,7-tetrahydro-indole 1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | 1.66 mmol | C(C)OC(=O)C1=CN(C=2CCC(C(C12)=O)Br)C(=O)OC(C)(C)C | C16H20BrNO5
reactant | acetamidine hydrochloride | 3.32 mmol | Cl.C(C)(=N)N
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 2-methyl-3,4,5,6-tetrahydro-imidazo[4,5-e]indole-8-carboxylic acid ethyl ester | 30% | C(C)OC(=O)C1=CNC=2CCC3=C(C12)N=C(N3)C | C13H15N3O2
